US08293917B2
5-Bromomethyl-1-(4-chloro-phenyl)-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-butyl]-amide (47 mg, 0.091 mmol) is treated with ammonia in methanol (7.0 N solution, 2.0 mL, 14 mmol) and the resultant solution is heated in a microwave at 120° C. for 3 min. The crude reaction mixture is concentrated in vacuo and purified by preparative reverse phase HPLC (eluted with 10 to 90% CH3CN/H2O and 0.1% TFA as additive) to afford 5-aminomethyl-1-(4-chloro-phenyl)-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-butyl]-amide (25 mg, 61%).

reactant | 5-Bromomethyl-1-(4-chloro-phenyl)-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-butyl]-amide | 0.091 mmol, 47 mg | FC(C=1C=C(C=CC1)[C@H](CCC)NC(=O)C=1C=NN(C1CBr)C1=CC=C(C=C1)Cl)(F)F | C22H20BrClF3N3O
reactant | ammonia | N | H3N
reactant | methanol | 14 mmol, 7.0 N, 2.0 mL | CO | CH4O
product | 5-aminomethyl-1-(4-chloro-phenyl)-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-butyl]-amide | 25 mg, 61% | FC(C=1C=C(C=CC1)[C@H](CCC)NC(=O)C=1C=NN(C1CN)C1=CC=C(C=C1)Cl)(F)F | C22H22ClF3N4O
